US07405300B2
A mixture of 2-chloro-1H-indole-3-carboxaldehyde (5.00 g, 27.8 mmol), phenylboronic acid (6.79 g, 55.6 mmol), cupric acetate (10.11 g, 55.7 mmol), pyridine (4.40 g, 55.7 mmol), triethylamine (5.63 g, 55.6 mmol), 4 Å molecular sieves (15.0 g) dichloromethane (300 mL) is stirred at room temperature for 4 d. The reaction mixture is filtered through a pad of Celite and the filtrate is washed with water, with 2N aq hydrochloric acid, with sat aq sodium bicarbonate, with brine, dried, filtered and concentrated. The residue is purified by chromatography eluting with dichloromethane. Product containing fractions are combined and concentrated to afford 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde (4.40 g, 88% yield) as a yellow solid. NMR (CDCl3) 12.30 (1H, s), 8.37 (1H, d), 7.58-7.70 (3H, m), 7.43 (2H, d), 7.23-7.40 (2H, m), 7.10 (1H, d).

reactant | 2-chloro-1H-indole-3-carboxaldehyde | 27.8 mmol, 5.00 g | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | phenylboronic acid | 55.6 mmol, 6.79 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 55.7 mmol, 4.40 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 55.6 mmol, 5.63 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL, 15.0 g | ClCCl | CH2Cl2
product | 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde | 4.40 g, 88% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
